US08580824B2
To a solution of 3-(4-carbamoyl-2-ethyl-6-methyl-phenyl)-propionic acid tert-butyl ester (30.0 g, 103 mmol) and NEt3 (31.3 g, 309 mmol) in DCM (300 mL), trifluoroacetic anhydride (23.8 g, 113 mmol) is added slowly. The exothermic reaction is kept below 5° C. with cooling. After complete addition, the mixture is stirred at rt for 1 h. The mixture is washed twice with water (2×300 mL) and the org. extract is evaporated to dryness to give 3-(4-cyano-2-ethyl-6-methyl-phenyl)-propionic acid tert-butyl ester (28.4 g) as a pale yellow oil; 1H NMR δ 1.25 (t, J=7.5 Hz, 3 H), 1.48 (s, 9 H), 2.32-2.37 (m, 2 H), 2.38 (s, 3 H), 2.70 (q, J=7.5 Hz, 2 H), 2.95-3.02 (m, 2 H), 7.30 (s, 1 H), 7.34 (s, 1 H).

reactant | 3-(4-carbamoyl-2-ethyl-6-methyl-phenyl)-propionic acid tert-butyl ester | 103 mmol, 30.0 g | C(C)(C)(C)OC(CCC1=C(C=C(C=C1C)C(N)=O)CC)=O | C17H25NO3
reactant | NEt3 | 309 mmol, 31.3 g | CCN(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 113 mmol, 23.8 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-cyano-2-ethyl-6-methyl-phenyl)-propionic acid tert-butyl ester | 28.4 g | C(C)(C)(C)OC(CCC1=C(C=C(C=C1C)C#N)CC)=O | C17H23NO2
